US05438052
(6R,7R)-7-Amino-3-[[[5-(3,4-dihydroxyphenyl)-2-phenyl-4-pyrimidinyl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (1.02 g) (2 mmol) are suspended in 25 ml of water and 25 ml of acetonitrile. While stirring there are added dropwise thereto at 0° C. 27 ml of 0.1N aqueous potassium hydroxide and the solution is treated portionwise with 1.0 g (3 mmol) of 2-amino-4-thiazolethioglyoxylic acid S-(2-benzothiazolyl) ester. The mixture is stirred at 0° C. for 1 hour and at 15°-20° C. for 2 hours. The suspension is now filtered and filter material is washed with water. The mother liquor and wash solution are combined, washed with ethyl acetate and finally acidified (pH~4) with dilute, aqueous hydrochloric acid. The precipitated product is filtered off under suction and washed in succession with water and diethyl ether. After drying in a high vacuum at room temperature there is obtained 0.5 g of (6R,7R)-7-(2-amino-4-thiazoleglyoxylamido)-3-[[(5-(3,4-dihydroxy-phenyl)-2-phenyl-4-pyrimidinyl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a yellow powder.

reactant | (6R,7R)-7-Amino-3-[[[5-(3,4-dihydroxyphenyl)-2-phenyl-4-pyrimidinyl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 2 mmol, 1.02 g | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=NC(=NC=C1C1=CC(=C(C=C1)O)O)C1=CC=CC=C1 | C24H20N4O5S2
reactant | potassium hydroxide | 0.1N, 27 ml | [OH-].[K+]
reactant | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | water | 25 ml | O | H2O
product | (6R,7R)-7-(2-amino-4-thiazoleglyoxylamido)-3-[[(5-(3,4-dihydroxy-phenyl)-2-phenyl-4-pyrimidinyl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.5 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=NC(=NC=C1C1=CC(=C(C=C1)O)O)C1=CC=CC=C1)=O | C29H22N6O7S3
